US07875643B2
Preparation 5: 3-{(1S,5R)-1-[2-Fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}-1-propanol
To (1S,5R)-3-(3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}propyl)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (135 mg, 0.3 mmol) HCl (1N, 2 mL) was added followed by THF (2 mL) and the reaction mixture was stirred at r.t. for 1 h. The reaction mixture was concentrated under vacuum and the solid was washed with Et2O (3×10 ml), dissolved in MeOH (2 mL) and eluted through SCX cartridge (eluent: NH3, 0.5 M in MeOH) to give 86 mg of the title compound.

reactant | (1S,5R)-3-(3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}propyl)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 0.3 mmol, 1N, 2 mL, 135 mg | CC(C)(C)[Si](OCCCN1C[C@]2(C[C@H]2C1)C1=C(C=C(C=C1)C(F)(F)F)F)(C)C | C21H31F4NOSi
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-{(1S,5R)-1-[2-Fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}-1-propanol | 86 mg | FC1=C(C=CC(=C1)C(F)(F)F)[C@]12CN(C[C@@H]2C1)CCCO | C15H17F4NO
